* source PWM GENERATOR
R_R1         N36490 N36818  150 TC=0,0 
R_R2         N36794 N36818  150 TC=0,0 
V_V4         VCC_ARROW 0 2
V_V5         VCC 0 -2
C_C1         N36794 N36505  30p  TC=0,0 
R_R3         N36505 N36490  150 TC=0,0 
X_U4         N75044 N107109 VCC+4 VCC-1 N38449 MAX4223/MXM
V_V6         N38350 N38365  AC 0
+SIN 0 2 5meg 0 0 0
X_U5         0 N36794 VCC_ARROW VCC N36505 AD8009an/AD
X_U6         N36490 0 VCC_ARROW VCC N36818 AD8009an/AD
R_R6         N604671 VCC_ARROW  0.1 TC=0,0 
R_R7         N604671 0  0.1 TC=0,0 
R_R8         N38350 N75044  1 TC=0,0 
R_R9         0 N38449  1k TC=0,0 
V_V7         N38365 0  AC 0
+SIN 0 30m 50meg 0 0 0
V_V8         VCC-1 0 -1
V_V9         VCC+4 0 5
R_R10         N107109 N36505  150 TC=0,0 
